* Z:\mnt\design.r\spice\examples\1504.asc
V1 IN 0 5
L1 N003 OUT 50µ
C1 OUT 0 100µ
R1 OUT N006 20.4K
R2 N006 0 12.6K
C2 N007 0 .01µ
R3 IN N001 47K
C3 N004 0 5000p
XU1 N001 IN N003 0 N006 N002 N007 N005 LTC1504 top=10 bot=1T
R4 N005 N004 5K
Rload OUT 0 100
.tran 5m startup
.lib LTC1504.sub
.backanno
.end
